US07932247B2
Phenylmethyl (2S)-4-({2′-fluoro-5′-[({[3-(4-piperidinylmethyl)phenyl]carbonyl}amino) methyl]-3-biphenylyl}methyl)-2-methyl-1-piperazinecarboxylate
To a solution of phenylmethyl (2S)-4-[(5′-{[({3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate (673 mg, 0.90 mmol) in 5 mL of 1,4-dioxane was added 5 mL of 4M HCl in 1,4-dioxane. The mixture was stirred at room temperature for 30 min. After removal of the solvent, the crude was purified by Gilson reverse phase HPLC, eluting with acetonitrile/water/0.1% TFA (10/90 to 70/30, v/v, over 12 min), to give the title compound (390 mg, 67%). LC/MS: m/z, 649 (M+H), 1.69 min.

reactant | phenylmethyl (2S)-4-[(5′-{[({3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | 0.90 mmol, 673 mg | CC(C)(C)OC(=O)N1CCC(CC1)CC=1C=C(C=CC1)C(=O)NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C)F | C45H53FN4O5
reactant | HCl | 4M, 5 mL | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | Phenylmethyl (2S)-4-({2′-fluoro-5′-[({[3-(4-piperidinylmethyl)phenyl]carbonyl}amino) methyl]-3-biphenylyl}methyl)-2-methyl-1-piperazinecarboxylate | 390 mg, 67% | FC1=C(C=C(C=C1)CNC(=O)C1=CC(=CC=C1)CC1CCNCC1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C | C40H45FN4O3
